US09422281B2
A mixture of (S)-(4-(benzo[d]oxazol-2-yl)-6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)(cyclopropyl)methanone (0.019 g, 0.046 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.012 g, 0.051 mmol), tris(dibenzylideneacetone)dipalladium (2.1 mg, 2.3 μmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (XPhos) (2.2 mg, 4.6 μmol) and cesium carbonate (0.045 g, 0.138 mmol) in dioxane (1.0 mL) and water (0.20 mL) was heated in the microwave at 100° C. for 1.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-(4-(benzo[d]oxazol-2-yl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone (0.014 g, 69%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.65-1.05 (m, 11 H), 1.85-2.02 (m, 1 H), 3.58-3.80 (m, 1H), 3.90-4.16 (m, 2 H), 5.02-5.18 (m, 1 H), 7.01-7.26 (m, 2 H), 7.31 (dd, J=8.21, 1.76 Hz, 1 H), 7.35-7.58 (m, 3 H), 7.79 (s, 1 H), 8.18 (s, 1 H), 8.36 (d, J=2.05 Hz, 1 H). MS (ESI, pos. ion) m/z 440 [M+H]+.

reactant | (S)-(4-(benzo[d]oxazol-2-yl)-6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)(cyclopropyl)methanone | 0.046 mmol, 0.019 g | O1C(=NC2=C1C=CC=C2)N2C[C@@H](N(C1=CC=C(C=C21)Br)C(=O)C2CC2)C | C20H18BrN3O2
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.051 mmol, 0.012 g | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 4.6 μmol, 2.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.138 mmol, 0.045 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.20 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 2.3 μmol, 2.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-(4-(benzo[d]oxazol-2-yl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone | 0.014 g, 69% | O1C(=NC2=C1C=CC=C2)N2C[C@@H](N(C1=CC=C(C=C21)C=2C=NN(C2)C2CC2)C(=O)C2CC2)C | C26H25N5O2
